US07368453B2
Step 2. Synthesis of 3-[2-(2,4-Dichlorophenyl)ethyl]-7-nitro-2,4(1H,3H)-quinazolinedione
To a stirred solution of 2-amino-N-[2-(2,4-dichlorophenyl)ethyl]-4-nitrobenzamide (1.0 g, 2.82 mmol) in toluene (30 mL) was added a 1.9 M solution of phosgene in toluene (4.5 mL, 8.5 mmol). The reaction mixture was heated to 60° C. and stirred for 4 hours. The solvent was removed under reduced pressure and CH2Cl2 was added to the residue. The precipitate was collected via vacuum filtration and washed with CH2Cl2 to give the product (0.92 g, 86% yield) as a white solid. HPLC retention time: 3.28 min; Method A; LRMS (ESI) m/z 378 (M−1).

reactant | 2-amino-N-[2-(2,4-dichlorophenyl)ethyl]-4-nitrobenzamide | 2.82 mmol, 1.0 g | NC1=C(C(=O)NCCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)[N+](=O)[O-] | C15H13Cl2N3O3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 8.5 mmol, 4.5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(2,4-Dichlorophenyl)ethyl]-7-nitro-2,4(1H,3H)-quinazolinedione | 0.92 g, 86% yield | ClC1=C(C=CC(=C1)Cl)CCN1C(NC2=CC(=CC=C2C1=O)[N+](=O)[O-])=O | C16H11Cl2N3O4
